US06300334B1
c) 6-(Chloromethyl)-3-methyl-5-[(1-methylethyl)thio]-1-(2-methylpropyl)-thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione
Thionyl chloride (145 μl) was added to 6-(hydroxymethyl)-3-methyl-5-[(1-methylethyl)thio]-1-(2-methylpropyl)-thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione (0.45 g) in dry dichloromethane (20 ml) and the mixture was stirred for 24 hours. The solvent was evaporated to give the subtitle compound as a an oil.

reactant | Thionyl chloride | 145 μl | S(=O)(Cl)Cl | Cl2OS
reactant | 6-(hydroxymethyl)-3-methyl-5-[(1-methylethyl)thio]-1-(2-methylpropyl)-thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione | 0.45 g | OCC1=C(C2=C(N(C(N(C2=O)C)=O)CC(C)C)S1)SC(C)C | C15H22N2O3S2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 6-(Chloromethyl)-3-methyl-5-[(1-methylethyl)thio]-1-(2-methylpropyl)-thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione | ClCC1=C(C2=C(N(C(N(C2=O)C)=O)CC(C)C)S1)SC(C)C | C15H21ClN2O2S2
